* Created by KLayout
*** My special header ***

* cell REG8x16
* pin ADD[0]
* pin ADD[1]
* pin ADD[2]
* pin ADD[3]
* pin D[0]
* pin D[1]
* pin D[2]
* pin D[3]
* pin D[4]
* pin D[5]
* pin D[6]
* pin D[7]
* pin Q[0]
* pin Q[1]
* pin Q[2]
* pin Q[3]
* pin Q[4]
* pin Q[5]
* pin Q[6]
* pin Q[7]
* pin WEB
* pin vdd
* pin vss
.SUBCKT REG8x16 ADD[0] ADD[1] ADD[2] ADD[3] D[0] D[1] D[2] D[3] D[4] D[5] D[6]
+ D[7] Q[0] Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] WEB vdd vss
* cell instance $4 r180 *1 -48.6,4.8
X$4 \$I90 \$I87 \$I91 \$I84 \$I86 ADD[3] \$I89 ADD[2] ADD[1] \$I88 \$I83 \$I85
+ vdd ADD[0] WEB vss ADDBUF
* cell instance $5 r180 *1 264.6,4.8
X$5 \$I76 Q[6] \$I68 D[6] vdd vss REGBUF
* cell instance $6 r180 *1 226.8,4.8
X$6 \$I77 Q[5] \$I69 D[5] vdd vss REGBUF
* cell instance $7 r180 *1 189,4.8
X$7 \$I78 Q[4] \$I70 D[4] vdd vss REGBUF
* cell instance $8 r180 *1 151.2,4.8
X$8 \$I79 Q[3] \$I71 D[3] vdd vss REGBUF
* cell instance $9 r180 *1 113.4,4.8
X$9 \$I80 Q[2] \$I72 D[2] vdd vss REGBUF
* cell instance $10 r180 *1 75.6,4.8
X$10 \$I81 Q[1] \$I73 D[1] vdd vss REGBUF
* cell instance $11 r180 *1 37.8,4.8
X$11 \$I82 Q[0] \$I74 D[0] vdd vss REGBUF
* cell instance $12 r180 *1 302.4,4.8
X$12 \$I75 Q[7] \$I67 D[7] vdd vss REGBUF
* cell instance $13 m45 *1 -86.4,166.2
X$13 \$I85 \$I84 \$I83 vdd \$I8 \$I16 \$I48 \$I40 vss \$I64 \$I32 \$I56 \$I24
+ \$I88 \$I89 \$I86 DEC2
* cell instance $14 m45 *1 -86.4,57
X$14 \$I85 \$I84 \$I83 vdd \$I9 \$I17 \$I49 \$I41 vss \$I65 \$I33 \$I57 \$I25
+ \$I91 \$I89 \$I86 DEC2
* cell instance $15 m45 *1 -86.4,275.4
X$15 \$I85 \$I84 \$I83 vdd \$I7 \$I15 \$I47 \$I39 vss \$I63 \$I31 \$I55 \$I23
+ \$I91 \$I87 \$I86 DEC2
* cell instance $16 m45 *1 -86.4,384.6
X$16 \$I85 \$I84 \$I83 vdd \$I6 \$I14 \$I46 \$I38 vss \$I62 \$I30 \$I54 \$I22
+ \$I88 \$I87 \$I86 DEC2
* cell instance $17 m45 *1 -86.4,493.8
X$17 \$I85 \$I84 \$I83 vdd \$I5 \$I13 \$I45 \$I37 vss \$I61 \$I29 \$I53 \$I21
+ \$I91 \$I89 \$I90 DEC2
* cell instance $18 m45 *1 -86.4,603
X$18 \$I85 \$I84 \$I83 vdd \$I4 \$I12 \$I44 \$I36 vss \$I60 \$I28 \$I52 \$I20
+ \$I88 \$I89 \$I90 DEC2
* cell instance $19 m45 *1 -86.4,712.2
X$19 \$I85 \$I84 \$I83 vdd \$I3 \$I11 \$I43 \$I35 vss \$I59 \$I27 \$I51 \$I19
+ \$I91 \$I87 \$I90 DEC2
* cell instance $20 m45 *1 -86.4,821.4
X$20 \$I85 \$I84 \$I83 vdd \$I2 \$I10 \$I42 \$I34 vss \$I58 \$I26 \$I50 \$I18
+ \$I88 \$I87 \$I90 DEC2
* cell instance $45 m0 *1 0,223.2
X$45 \$I32 \$I24 \$I82 \$I74 vdd \$I16 \$I8 vss TLAT
* cell instance $46 m0 *1 37.8,223.2
X$46 \$I32 \$I24 \$I81 \$I73 vdd \$I16 \$I8 vss TLAT
* cell instance $47 m0 *1 75.6,223.2
X$47 \$I32 \$I24 \$I80 \$I72 vdd \$I16 \$I8 vss TLAT
* cell instance $48 m0 *1 113.4,223.2
X$48 \$I32 \$I24 \$I79 \$I71 vdd \$I16 \$I8 vss TLAT
* cell instance $49 m0 *1 151.2,223.2
X$49 \$I32 \$I24 \$I78 \$I70 vdd \$I16 \$I8 vss TLAT
* cell instance $50 m0 *1 189,223.2
X$50 \$I32 \$I24 \$I77 \$I69 vdd \$I16 \$I8 vss TLAT
* cell instance $51 m0 *1 226.8,223.2
X$51 \$I32 \$I24 \$I76 \$I68 vdd \$I16 \$I8 vss TLAT
* cell instance $52 m0 *1 264.6,223.2
X$52 \$I32 \$I24 \$I75 \$I67 vdd \$I16 \$I8 vss TLAT
* cell instance $53 r0 *1 0,109.2
X$53 \$I64 \$I56 \$I82 \$I74 vdd \$I48 \$I40 vss TLAT
* cell instance $54 r0 *1 37.8,109.2
X$54 \$I64 \$I56 \$I81 \$I73 vdd \$I48 \$I40 vss TLAT
* cell instance $55 r0 *1 75.6,109.2
X$55 \$I64 \$I56 \$I80 \$I72 vdd \$I48 \$I40 vss TLAT
* cell instance $56 r0 *1 113.4,109.2
X$56 \$I64 \$I56 \$I79 \$I71 vdd \$I48 \$I40 vss TLAT
* cell instance $57 r0 *1 151.2,109.2
X$57 \$I64 \$I56 \$I78 \$I70 vdd \$I48 \$I40 vss TLAT
* cell instance $58 r0 *1 189,109.2
X$58 \$I64 \$I56 \$I77 \$I69 vdd \$I48 \$I40 vss TLAT
* cell instance $59 r0 *1 226.8,109.2
X$59 \$I64 \$I56 \$I76 \$I68 vdd \$I48 \$I40 vss TLAT
* cell instance $60 r0 *1 264.6,109.2
X$60 \$I64 \$I56 \$I75 \$I67 vdd \$I48 \$I40 vss TLAT
* cell instance $61 m0 *1 0,114
X$61 \$I33 \$I25 \$I82 \$I74 vdd \$I17 \$I9 vss TLAT
* cell instance $62 m0 *1 37.8,114
X$62 \$I33 \$I25 \$I81 \$I73 vdd \$I17 \$I9 vss TLAT
* cell instance $63 m0 *1 75.6,114
X$63 \$I33 \$I25 \$I80 \$I72 vdd \$I17 \$I9 vss TLAT
* cell instance $64 m0 *1 113.4,114
X$64 \$I33 \$I25 \$I79 \$I71 vdd \$I17 \$I9 vss TLAT
* cell instance $65 m0 *1 151.2,114
X$65 \$I33 \$I25 \$I78 \$I70 vdd \$I17 \$I9 vss TLAT
* cell instance $66 m0 *1 189,114
X$66 \$I33 \$I25 \$I77 \$I69 vdd \$I17 \$I9 vss TLAT
* cell instance $67 m0 *1 226.8,114
X$67 \$I33 \$I25 \$I76 \$I68 vdd \$I17 \$I9 vss TLAT
* cell instance $68 m0 *1 264.6,114
X$68 \$I33 \$I25 \$I75 \$I67 vdd \$I17 \$I9 vss TLAT
* cell instance $69 r0 *1 0,0
X$69 \$I65 \$I57 \$I82 \$I74 vdd \$I49 \$I41 vss TLAT
* cell instance $70 r0 *1 37.8,0
X$70 \$I65 \$I57 \$I81 \$I73 vdd \$I49 \$I41 vss TLAT
* cell instance $71 r0 *1 75.6,0
X$71 \$I65 \$I57 \$I80 \$I72 vdd \$I49 \$I41 vss TLAT
* cell instance $72 r0 *1 113.4,0
X$72 \$I65 \$I57 \$I79 \$I71 vdd \$I49 \$I41 vss TLAT
* cell instance $73 r0 *1 151.2,0
X$73 \$I65 \$I57 \$I78 \$I70 vdd \$I49 \$I41 vss TLAT
* cell instance $74 r0 *1 189,0
X$74 \$I65 \$I57 \$I77 \$I69 vdd \$I49 \$I41 vss TLAT
* cell instance $75 r0 *1 226.8,0
X$75 \$I65 \$I57 \$I76 \$I68 vdd \$I49 \$I41 vss TLAT
* cell instance $76 r0 *1 264.6,0
X$76 \$I65 \$I57 \$I75 \$I67 vdd \$I49 \$I41 vss TLAT
* cell instance $77 m0 *1 0,332.4
X$77 \$I31 \$I23 \$I82 \$I74 vdd \$I15 \$I7 vss TLAT
* cell instance $78 m0 *1 37.8,332.4
X$78 \$I31 \$I23 \$I81 \$I73 vdd \$I15 \$I7 vss TLAT
* cell instance $79 m0 *1 75.6,332.4
X$79 \$I31 \$I23 \$I80 \$I72 vdd \$I15 \$I7 vss TLAT
* cell instance $80 m0 *1 113.4,332.4
X$80 \$I31 \$I23 \$I79 \$I71 vdd \$I15 \$I7 vss TLAT
* cell instance $81 m0 *1 151.2,332.4
X$81 \$I31 \$I23 \$I78 \$I70 vdd \$I15 \$I7 vss TLAT
* cell instance $82 m0 *1 189,332.4
X$82 \$I31 \$I23 \$I77 \$I69 vdd \$I15 \$I7 vss TLAT
* cell instance $83 m0 *1 226.8,332.4
X$83 \$I31 \$I23 \$I76 \$I68 vdd \$I15 \$I7 vss TLAT
* cell instance $84 m0 *1 264.6,332.4
X$84 \$I31 \$I23 \$I75 \$I67 vdd \$I15 \$I7 vss TLAT
* cell instance $85 r0 *1 0,218.4
X$85 \$I63 \$I55 \$I82 \$I74 vdd \$I47 \$I39 vss TLAT
* cell instance $86 r0 *1 37.8,218.4
X$86 \$I63 \$I55 \$I81 \$I73 vdd \$I47 \$I39 vss TLAT
* cell instance $87 r0 *1 75.6,218.4
X$87 \$I63 \$I55 \$I80 \$I72 vdd \$I47 \$I39 vss TLAT
* cell instance $88 r0 *1 113.4,218.4
X$88 \$I63 \$I55 \$I79 \$I71 vdd \$I47 \$I39 vss TLAT
* cell instance $89 r0 *1 151.2,218.4
X$89 \$I63 \$I55 \$I78 \$I70 vdd \$I47 \$I39 vss TLAT
* cell instance $90 r0 *1 189,218.4
X$90 \$I63 \$I55 \$I77 \$I69 vdd \$I47 \$I39 vss TLAT
* cell instance $91 r0 *1 226.8,218.4
X$91 \$I63 \$I55 \$I76 \$I68 vdd \$I47 \$I39 vss TLAT
* cell instance $92 r0 *1 264.6,218.4
X$92 \$I63 \$I55 \$I75 \$I67 vdd \$I47 \$I39 vss TLAT
* cell instance $93 m0 *1 0,441.6
X$93 \$I30 \$I22 \$I82 \$I74 vdd \$I14 \$I6 vss TLAT
* cell instance $94 m0 *1 37.8,441.6
X$94 \$I30 \$I22 \$I81 \$I73 vdd \$I14 \$I6 vss TLAT
* cell instance $95 m0 *1 75.6,441.6
X$95 \$I30 \$I22 \$I80 \$I72 vdd \$I14 \$I6 vss TLAT
* cell instance $96 m0 *1 113.4,441.6
X$96 \$I30 \$I22 \$I79 \$I71 vdd \$I14 \$I6 vss TLAT
* cell instance $97 m0 *1 151.2,441.6
X$97 \$I30 \$I22 \$I78 \$I70 vdd \$I14 \$I6 vss TLAT
* cell instance $98 m0 *1 189,441.6
X$98 \$I30 \$I22 \$I77 \$I69 vdd \$I14 \$I6 vss TLAT
* cell instance $99 m0 *1 226.8,441.6
X$99 \$I30 \$I22 \$I76 \$I68 vdd \$I14 \$I6 vss TLAT
* cell instance $100 m0 *1 264.6,441.6
X$100 \$I30 \$I22 \$I75 \$I67 vdd \$I14 \$I6 vss TLAT
* cell instance $101 r0 *1 0,327.6
X$101 \$I62 \$I54 \$I82 \$I74 vdd \$I46 \$I38 vss TLAT
* cell instance $102 r0 *1 37.8,327.6
X$102 \$I62 \$I54 \$I81 \$I73 vdd \$I46 \$I38 vss TLAT
* cell instance $103 r0 *1 75.6,327.6
X$103 \$I62 \$I54 \$I80 \$I72 vdd \$I46 \$I38 vss TLAT
* cell instance $104 r0 *1 113.4,327.6
X$104 \$I62 \$I54 \$I79 \$I71 vdd \$I46 \$I38 vss TLAT
* cell instance $105 r0 *1 151.2,327.6
X$105 \$I62 \$I54 \$I78 \$I70 vdd \$I46 \$I38 vss TLAT
* cell instance $106 r0 *1 189,327.6
X$106 \$I62 \$I54 \$I77 \$I69 vdd \$I46 \$I38 vss TLAT
* cell instance $107 r0 *1 226.8,327.6
X$107 \$I62 \$I54 \$I76 \$I68 vdd \$I46 \$I38 vss TLAT
* cell instance $108 r0 *1 264.6,327.6
X$108 \$I62 \$I54 \$I75 \$I67 vdd \$I46 \$I38 vss TLAT
* cell instance $109 m0 *1 0,550.8
X$109 \$I29 \$I21 \$I82 \$I74 vdd \$I13 \$I5 vss TLAT
* cell instance $110 m0 *1 37.8,550.8
X$110 \$I29 \$I21 \$I81 \$I73 vdd \$I13 \$I5 vss TLAT
* cell instance $111 m0 *1 75.6,550.8
X$111 \$I29 \$I21 \$I80 \$I72 vdd \$I13 \$I5 vss TLAT
* cell instance $112 m0 *1 113.4,550.8
X$112 \$I29 \$I21 \$I79 \$I71 vdd \$I13 \$I5 vss TLAT
* cell instance $113 m0 *1 151.2,550.8
X$113 \$I29 \$I21 \$I78 \$I70 vdd \$I13 \$I5 vss TLAT
* cell instance $114 m0 *1 189,550.8
X$114 \$I29 \$I21 \$I77 \$I69 vdd \$I13 \$I5 vss TLAT
* cell instance $115 m0 *1 226.8,550.8
X$115 \$I29 \$I21 \$I76 \$I68 vdd \$I13 \$I5 vss TLAT
* cell instance $116 m0 *1 264.6,550.8
X$116 \$I29 \$I21 \$I75 \$I67 vdd \$I13 \$I5 vss TLAT
* cell instance $117 r0 *1 0,436.8
X$117 \$I61 \$I53 \$I82 \$I74 vdd \$I45 \$I37 vss TLAT
* cell instance $118 r0 *1 37.8,436.8
X$118 \$I61 \$I53 \$I81 \$I73 vdd \$I45 \$I37 vss TLAT
* cell instance $119 r0 *1 75.6,436.8
X$119 \$I61 \$I53 \$I80 \$I72 vdd \$I45 \$I37 vss TLAT
* cell instance $120 r0 *1 113.4,436.8
X$120 \$I61 \$I53 \$I79 \$I71 vdd \$I45 \$I37 vss TLAT
* cell instance $121 r0 *1 151.2,436.8
X$121 \$I61 \$I53 \$I78 \$I70 vdd \$I45 \$I37 vss TLAT
* cell instance $122 r0 *1 189,436.8
X$122 \$I61 \$I53 \$I77 \$I69 vdd \$I45 \$I37 vss TLAT
* cell instance $123 r0 *1 226.8,436.8
X$123 \$I61 \$I53 \$I76 \$I68 vdd \$I45 \$I37 vss TLAT
* cell instance $124 r0 *1 264.6,436.8
X$124 \$I61 \$I53 \$I75 \$I67 vdd \$I45 \$I37 vss TLAT
* cell instance $125 m0 *1 0,660
X$125 \$I28 \$I20 \$I82 \$I74 vdd \$I12 \$I4 vss TLAT
* cell instance $126 m0 *1 37.8,660
X$126 \$I28 \$I20 \$I81 \$I73 vdd \$I12 \$I4 vss TLAT
* cell instance $127 m0 *1 75.6,660
X$127 \$I28 \$I20 \$I80 \$I72 vdd \$I12 \$I4 vss TLAT
* cell instance $128 m0 *1 113.4,660
X$128 \$I28 \$I20 \$I79 \$I71 vdd \$I12 \$I4 vss TLAT
* cell instance $129 m0 *1 151.2,660
X$129 \$I28 \$I20 \$I78 \$I70 vdd \$I12 \$I4 vss TLAT
* cell instance $130 m0 *1 189,660
X$130 \$I28 \$I20 \$I77 \$I69 vdd \$I12 \$I4 vss TLAT
* cell instance $131 m0 *1 226.8,660
X$131 \$I28 \$I20 \$I76 \$I68 vdd \$I12 \$I4 vss TLAT
* cell instance $132 m0 *1 264.6,660
X$132 \$I28 \$I20 \$I75 \$I67 vdd \$I12 \$I4 vss TLAT
* cell instance $133 r0 *1 0,546
X$133 \$I60 \$I52 \$I82 \$I74 vdd \$I44 \$I36 vss TLAT
* cell instance $134 r0 *1 37.8,546
X$134 \$I60 \$I52 \$I81 \$I73 vdd \$I44 \$I36 vss TLAT
* cell instance $135 r0 *1 75.6,546
X$135 \$I60 \$I52 \$I80 \$I72 vdd \$I44 \$I36 vss TLAT
* cell instance $136 r0 *1 113.4,546
X$136 \$I60 \$I52 \$I79 \$I71 vdd \$I44 \$I36 vss TLAT
* cell instance $137 r0 *1 151.2,546
X$137 \$I60 \$I52 \$I78 \$I70 vdd \$I44 \$I36 vss TLAT
* cell instance $138 r0 *1 189,546
X$138 \$I60 \$I52 \$I77 \$I69 vdd \$I44 \$I36 vss TLAT
* cell instance $139 r0 *1 226.8,546
X$139 \$I60 \$I52 \$I76 \$I68 vdd \$I44 \$I36 vss TLAT
* cell instance $140 r0 *1 264.6,546
X$140 \$I60 \$I52 \$I75 \$I67 vdd \$I44 \$I36 vss TLAT
* cell instance $141 m0 *1 0,769.2
X$141 \$I27 \$I19 \$I82 \$I74 vdd \$I11 \$I3 vss TLAT
* cell instance $142 m0 *1 37.8,769.2
X$142 \$I27 \$I19 \$I81 \$I73 vdd \$I11 \$I3 vss TLAT
* cell instance $143 m0 *1 75.6,769.2
X$143 \$I27 \$I19 \$I80 \$I72 vdd \$I11 \$I3 vss TLAT
* cell instance $144 m0 *1 113.4,769.2
X$144 \$I27 \$I19 \$I79 \$I71 vdd \$I11 \$I3 vss TLAT
* cell instance $145 m0 *1 151.2,769.2
X$145 \$I27 \$I19 \$I78 \$I70 vdd \$I11 \$I3 vss TLAT
* cell instance $146 m0 *1 189,769.2
X$146 \$I27 \$I19 \$I77 \$I69 vdd \$I11 \$I3 vss TLAT
* cell instance $147 m0 *1 226.8,769.2
X$147 \$I27 \$I19 \$I76 \$I68 vdd \$I11 \$I3 vss TLAT
* cell instance $148 m0 *1 264.6,769.2
X$148 \$I27 \$I19 \$I75 \$I67 vdd \$I11 \$I3 vss TLAT
* cell instance $149 r0 *1 0,655.2
X$149 \$I59 \$I51 \$I82 \$I74 vdd \$I43 \$I35 vss TLAT
* cell instance $150 r0 *1 37.8,655.2
X$150 \$I59 \$I51 \$I81 \$I73 vdd \$I43 \$I35 vss TLAT
* cell instance $151 r0 *1 75.6,655.2
X$151 \$I59 \$I51 \$I80 \$I72 vdd \$I43 \$I35 vss TLAT
* cell instance $152 r0 *1 113.4,655.2
X$152 \$I59 \$I51 \$I79 \$I71 vdd \$I43 \$I35 vss TLAT
* cell instance $153 r0 *1 151.2,655.2
X$153 \$I59 \$I51 \$I78 \$I70 vdd \$I43 \$I35 vss TLAT
* cell instance $154 r0 *1 189,655.2
X$154 \$I59 \$I51 \$I77 \$I69 vdd \$I43 \$I35 vss TLAT
* cell instance $155 r0 *1 226.8,655.2
X$155 \$I59 \$I51 \$I76 \$I68 vdd \$I43 \$I35 vss TLAT
* cell instance $156 r0 *1 264.6,655.2
X$156 \$I59 \$I51 \$I75 \$I67 vdd \$I43 \$I35 vss TLAT
* cell instance $157 m0 *1 0,878.4
X$157 \$I26 \$I18 \$I82 \$I74 vdd \$I10 \$I2 vss TLAT
* cell instance $158 m0 *1 37.8,878.4
X$158 \$I26 \$I18 \$I81 \$I73 vdd \$I10 \$I2 vss TLAT
* cell instance $159 m0 *1 75.6,878.4
X$159 \$I26 \$I18 \$I80 \$I72 vdd \$I10 \$I2 vss TLAT
* cell instance $160 m0 *1 113.4,878.4
X$160 \$I26 \$I18 \$I79 \$I71 vdd \$I10 \$I2 vss TLAT
* cell instance $161 m0 *1 151.2,878.4
X$161 \$I26 \$I18 \$I78 \$I70 vdd \$I10 \$I2 vss TLAT
* cell instance $162 m0 *1 189,878.4
X$162 \$I26 \$I18 \$I77 \$I69 vdd \$I10 \$I2 vss TLAT
* cell instance $163 m0 *1 226.8,878.4
X$163 \$I26 \$I18 \$I76 \$I68 vdd \$I10 \$I2 vss TLAT
* cell instance $164 m0 *1 264.6,878.4
X$164 \$I26 \$I18 \$I75 \$I67 vdd \$I10 \$I2 vss TLAT
* cell instance $165 r0 *1 0,764.4
X$165 \$I58 \$I50 \$I82 \$I74 vdd \$I42 \$I34 vss TLAT
* cell instance $166 r0 *1 37.8,764.4
X$166 \$I58 \$I50 \$I81 \$I73 vdd \$I42 \$I34 vss TLAT
* cell instance $167 r0 *1 75.6,764.4
X$167 \$I58 \$I50 \$I80 \$I72 vdd \$I42 \$I34 vss TLAT
* cell instance $168 r0 *1 113.4,764.4
X$168 \$I58 \$I50 \$I79 \$I71 vdd \$I42 \$I34 vss TLAT
* cell instance $169 r0 *1 151.2,764.4
X$169 \$I58 \$I50 \$I78 \$I70 vdd \$I42 \$I34 vss TLAT
* cell instance $170 r0 *1 189,764.4
X$170 \$I58 \$I50 \$I77 \$I69 vdd \$I42 \$I34 vss TLAT
* cell instance $171 r0 *1 226.8,764.4
X$171 \$I58 \$I50 \$I76 \$I68 vdd \$I42 \$I34 vss TLAT
* cell instance $172 r0 *1 264.6,764.4
X$172 \$I58 \$I50 \$I75 \$I67 vdd \$I42 \$I34 vss TLAT
.ENDS REG8x16

* cell REGBUF
* pin Q
* pin QQ
* pin DD
* pin D,DD
* pin vdd
* pin gnd
.SUBCKT REGBUF Q QQ DD D|DD vdd gnd
* device instance $1 r0 *1 29.8,47.8 PMOS
XM$1 DD \$6 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 33.8,47.8 PMOS
XM$2 vdd D|DD \$6 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 4,47.8 PMOS
XM$3 \$3 Q vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $4 r0 *1 8,47.8 PMOS
XM$4 vdd \$3 QQ vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $5 r0 *1 5.4,8.2 NMOS
XM$5 \$3 Q gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $6 r0 *1 9.4,8.2 NMOS
XM$6 gnd \$3 QQ gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $7 r0 *1 28.4,8.2 NMOS
XM$7 DD \$6 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $8 r0 *1 32.4,8.2 NMOS
XM$8 gnd D|DD \$6 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS REGBUF

* cell DEC2
* pin WEB
* pin AB0
* pin A0
* pin 
* pin 
* pin 
* pin 
* pin 
* pin VSS
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
.SUBCKT DEC2 WEB AB0 A0 \$14 \$15 \$17 \$19 \$27 VSS \$I54 \$I53 \$I52 \$I51
+ \$I41 \$I40 \$I27
* device instance $1 r0 *1 -22.2,68.8 PMOS
XM$1 \$27 \$19 \$20 \$14 PMOS L=1u W=12.2u AS=34.16p AD=7.32p PS=30u PD=13.4u
* device instance $2 r0 *1 -20,68.8 PMOS
XM$2 \$20 WEB \$14 \$14 PMOS L=1u W=12.2u AS=7.32p AD=30.5p PS=13.4u PD=17.2u
* device instance $3 r0 *1 -14,68.8 PMOS
XM$3 \$14 AB0 \$19 \$14 PMOS L=1u W=12.2u AS=30.5p AD=18.3p PS=17.2u PD=15.2u
* device instance $4 r0 *1 -10,68.8 PMOS
XM$4 \$19 \$I41 \$14 \$14 PMOS L=1u W=12.2u AS=18.3p AD=18.3p PS=15.2u PD=15.2u
* device instance $5 r0 *1 -6,68.8 PMOS
XM$5 \$14 \$I40 \$19 \$14 PMOS L=1u W=12.2u AS=18.3p AD=18.3p PS=15.2u PD=15.2u
* device instance $6 r0 *1 -2,68.8 PMOS
XM$6 \$19 \$I27 \$14 \$14 PMOS L=1u W=12.2u AS=18.3p AD=18.3p PS=15.2u PD=15.2u
* device instance $7 r0 *1 2,68.8 PMOS
XM$7 \$14 \$I27 \$17 \$14 PMOS L=1u W=12.2u AS=18.3p AD=18.3p PS=15.2u PD=15.2u
* device instance $8 r0 *1 6,68.8 PMOS
XM$8 \$17 \$I40 \$14 \$14 PMOS L=1u W=12.2u AS=18.3p AD=18.3p PS=15.2u PD=15.2u
* device instance $9 r0 *1 10,68.8 PMOS
XM$9 \$14 \$I41 \$17 \$14 PMOS L=1u W=12.2u AS=18.3p AD=18.3p PS=15.2u PD=15.2u
* device instance $10 r0 *1 14,68.8 PMOS
XM$10 \$17 A0 \$14 \$14 PMOS L=1u W=12.2u AS=18.3p AD=30.5p PS=15.2u PD=17.2u
* device instance $11 r0 *1 20,68.8 PMOS
XM$11 \$14 WEB \$16 \$14 PMOS L=1u W=12.2u AS=30.5p AD=7.32p PS=17.2u PD=13.4u
* device instance $12 r0 *1 22.2,68.8 PMOS
XM$12 \$16 \$17 \$15 \$14 PMOS L=1u W=12.2u AS=7.32p AD=34.16p PS=13.4u PD=30u
* device instance $13 r0 *1 -9.6,12.4 NMOS
XM$13 \$19 AB0 \$31 VSS NMOS L=1u W=4.6u AS=12.88p AD=2.76p PS=14.8u PD=5.8u
* device instance $14 r0 *1 -7.4,12.4 NMOS
XM$14 \$31 \$I41 \$30 VSS NMOS L=1u W=4.6u AS=2.76p AD=2.76p PS=5.8u PD=5.8u
* device instance $15 r0 *1 -5.2,12.4 NMOS
XM$15 \$30 \$I40 \$35 VSS NMOS L=1u W=4.6u AS=2.76p AD=2.76p PS=5.8u PD=5.8u
* device instance $16 r0 *1 -3,12.4 NMOS
XM$16 \$35 \$I27 VSS VSS NMOS L=1u W=4.6u AS=2.76p AD=11.5p PS=5.8u PD=9.6u
* device instance $17 r0 *1 3,12.4 NMOS
XM$17 VSS \$I27 \$34 VSS NMOS L=1u W=4.6u AS=11.5p AD=2.76p PS=9.6u PD=5.8u
* device instance $18 r0 *1 5.2,12.4 NMOS
XM$18 \$34 \$I40 \$28 VSS NMOS L=1u W=4.6u AS=2.76p AD=2.76p PS=5.8u PD=5.8u
* device instance $19 r0 *1 7.4,12.4 NMOS
XM$19 \$28 \$I41 \$29 VSS NMOS L=1u W=4.6u AS=2.76p AD=2.76p PS=5.8u PD=5.8u
* device instance $20 r0 *1 9.6,12.4 NMOS
XM$20 \$29 A0 \$17 VSS NMOS L=1u W=4.6u AS=2.76p AD=12.88p PS=5.8u PD=14.8u
* device instance $21 m90 *1 -30.2,68.8 PMOS
XM$21 \$I52 \$27 \$14 \$14 PMOS L=1u W=12.2u AS=34.16p AD=18.3p PS=30u PD=15.2u
* device instance $22 m90 *1 -34.2,68.8 PMOS
XM$22 \$14 \$19 \$I54 \$14 PMOS L=1u W=12.2u AS=18.3p AD=34.16p PS=15.2u PD=30u
* device instance $23 m90 *1 -30.2,26.9 NMOS
XM$23 \$I52 \$27 VSS VSS NMOS L=1u W=4.6u AS=12.88p AD=6.9p PS=14.8u PD=7.6u
* device instance $24 m90 *1 -34.2,26.9 NMOS
XM$24 VSS \$19 \$I54 VSS NMOS L=1u W=4.6u AS=6.9p AD=12.88p PS=7.6u PD=14.8u
* device instance $25 m90 *1 -22.2,26.9 NMOS
XM$25 VSS \$19 \$27 VSS NMOS L=1u W=4.6u AS=12.88p AD=12.88p PS=14.8u PD=14.8u
* device instance $26 m90 *1 -22.2,12.4 NMOS
XM$26 VSS WEB \$27 VSS NMOS L=1u W=4.6u AS=12.88p AD=12.88p PS=14.8u PD=14.8u
* device instance $27 r0 *1 30.2,68.8 PMOS
XM$27 \$I51 \$15 \$14 \$14 PMOS L=1u W=12.2u AS=34.16p AD=18.3p PS=30u PD=15.2u
* device instance $28 r0 *1 34.2,68.8 PMOS
XM$28 \$14 \$17 \$I53 \$14 PMOS L=1u W=12.2u AS=18.3p AD=34.16p PS=15.2u PD=30u
* device instance $29 r0 *1 30.2,26.9 NMOS
XM$29 \$I51 \$15 VSS VSS NMOS L=1u W=4.6u AS=12.88p AD=6.9p PS=14.8u PD=7.6u
* device instance $30 r0 *1 34.2,26.9 NMOS
XM$30 VSS \$17 \$I53 VSS NMOS L=1u W=4.6u AS=6.9p AD=12.88p PS=7.6u PD=14.8u
* device instance $31 r0 *1 22.2,26.9 NMOS
XM$31 VSS \$17 \$15 VSS NMOS L=1u W=4.6u AS=12.88p AD=12.88p PS=14.8u PD=14.8u
* device instance $32 r0 *1 22.2,12.4 NMOS
XM$32 VSS WEB \$15 VSS NMOS L=1u W=4.6u AS=12.88p AD=12.88p PS=14.8u PD=14.8u
.ENDS DEC2

* cell TLAT
* pin RD
* pin WRB
* pin Q
* pin D
* pin vdd
* pin RDB
* pin WR
* pin gnd
.SUBCKT TLAT RD WRB Q D vdd RDB WR gnd
* device instance $1 r0 *1 29.5,40.2 PMOS
XM$1 vdd \$6 \$7 vdd PMOS L=1u W=7.2u AS=20.16p AD=10.8p PS=20u PD=10.2u
* device instance $2 r0 *1 33.5,40.2 PMOS
XM$2 \$7 RDB Q vdd PMOS L=1u W=7.2u AS=10.8p AD=20.16p PS=10.2u PD=20u
* device instance $3 r0 *1 9.5,40.2 PMOS
XM$3 D WRB \$4 vdd PMOS L=1u W=7.2u AS=20.16p AD=10.8p PS=20u PD=10.2u
* device instance $4 r0 *1 13.5,40.2 PMOS
XM$4 \$4 WR \$5 vdd PMOS L=1u W=7.2u AS=10.8p AD=10.8p PS=10.2u PD=10.2u
* device instance $5 r0 *1 17.5,40.2 PMOS
XM$5 \$5 \$6 vdd vdd PMOS L=1u W=7.2u AS=10.8p AD=10.8p PS=10.2u PD=10.2u
* device instance $6 r0 *1 21.5,40.2 PMOS
XM$6 vdd \$4 \$6 vdd PMOS L=1u W=7.2u AS=10.8p AD=20.16p PS=10.2u PD=20u
* device instance $7 r0 *1 29.5,17.9 NMOS
XM$7 gnd \$6 \$7 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $8 r0 *1 33.5,17.9 NMOS
XM$8 \$7 RD Q gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $9 r0 *1 9.5,17.9 NMOS
XM$9 D WR \$4 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $10 r0 *1 13.5,17.9 NMOS
XM$10 \$4 WRB \$5 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $11 r0 *1 17.5,17.9 NMOS
XM$11 \$5 \$6 gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $12 r0 *1 21.5,17.9 NMOS
XM$12 gnd \$4 \$6 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS TLAT

* cell ADDBUF
* pin AB3
* pin AB2
* pin AB1
* pin AB0
* pin A3
* pin A3_PIN
* pin A2
* pin A2_PIN
* pin A1_PIN
* pin A1
* pin A0
* pin WEB
* pin vdd
* pin A0_PIN
* pin WEB_PIN
* pin gnd
.SUBCKT ADDBUF AB3 AB2 AB1 AB0 A3 A3_PIN A2 A2_PIN A1_PIN A1 A0 WEB vdd A0_PIN
+ WEB_PIN gnd
* device instance $1 r0 *1 -20,41.7 PMOS
XM$1 A3 AB3 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 -16,41.7 PMOS
XM$2 vdd A3_PIN AB3 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 16,41.7 PMOS
XM$3 AB0 A0_PIN vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $4 r0 *1 20,41.7 PMOS
XM$4 vdd AB0 A0 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $5 r0 *1 28,41.7 PMOS
XM$5 WEB \$6 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $6 r0 *1 32,41.7 PMOS
XM$6 vdd WEB_PIN \$6 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $7 r0 *1 4,41.7 PMOS
XM$7 AB1 A1_PIN vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $8 r0 *1 8,41.7 PMOS
XM$8 vdd AB1 A1 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $9 r0 *1 -8,41.7 PMOS
XM$9 A2 AB2 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $10 r0 *1 -4,41.7 PMOS
XM$10 vdd A2_PIN AB2 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $11 r0 *1 28,17.9 NMOS
XM$11 WEB \$6 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $12 r0 *1 32,17.9 NMOS
XM$12 gnd WEB_PIN \$6 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $13 r0 *1 16,17.9 NMOS
XM$13 AB0 A0_PIN gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $14 r0 *1 20,17.9 NMOS
XM$14 gnd AB0 A0 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $15 r0 *1 4,17.9 NMOS
XM$15 AB1 A1_PIN gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $16 r0 *1 8,17.9 NMOS
XM$16 gnd AB1 A1 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $17 r0 *1 -8,17.9 NMOS
XM$17 A2 AB2 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $18 r0 *1 -4,17.9 NMOS
XM$18 gnd A2_PIN AB2 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $19 r0 *1 -20,17.9 NMOS
XM$19 A3 AB3 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $20 r0 *1 -16,17.9 NMOS
XM$20 gnd A3_PIN AB3 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS ADDBUF
